US07960409B2
Step 1: 1,1,1-Trifluoro-2-methyl-4-(trimethylsilyl)but-3-yn-2-ol
To a solution of (trimethylsilyl)acetylene (2.80 mL, 20.2 mmol) in Et2O (25 mL) at −78° C., was added n-BuLi (2.5 M in hexane, 8.10 mL, 20.2 mmol), while maintaining internal temperature below −70° C. After 30 min., a solution of 1,1,1-trifluoroacetone (3.62 mL, 40.5 mmol) in Et2O (10 mL) was added rapidly, keeping the internal temperature below −45° C. After 2 h at −78° C., a saturated solution of NH4Cl was added. The aqueous layer was extracted with Et2O, and the combined organic layers were washed with brine, dried (Na2SO4) and concentrated under vacuum, at 25° C., affording the title compound a liquid containing Et2O (7.25 g). The crude product was used as such in Step 2. 1H NMR (400 MHz, acetone-d6): 5.92 (br s, 1H), 1.59 (s, 3H), 0.18 (s, 9H).

reactant | (trimethylsilyl)acetylene | 20.2 mmol, 2.80 mL | C[Si](C)(C)C#C | C5H10Si
reactant | n-BuLi | 20.2 mmol, 2.5 M, 8.10 mL | [Li]CCCC
reactant | 1,1,1-trifluoroacetone | 40.5 mmol, 3.62 mL | FC(C(=O)C)(F)F | C3H3F3O
reactant | NH4Cl | [NH4+].[Cl-]
solvent | Et2O | 25 mL | CCOCC | C4H10O
solvent | Et2O | 10 mL | CCOCC | C4H10O
product | 1,1,1-Trifluoro-2-methyl-4-(trimethylsilyl)but-3-yn-2-ol | FC(C(C#C[Si](C)(C)C)(O)C)(F)F | C8H13F3OSi
